US04436748
A solution of 1.24 g of 6,7-dichloro-5-hydroxy-2-hydroxymethylbenzo[b]thiophene, 0.9 g of ethyl bromoacetate, 0.6 g of potassium carbonate, 25 ml of 2-butanone and 0.5 ml of dimethylformamide is stirred under reflux for 2 hrs. The aqueous layer is extracted twice with 50 ml portions of dichloromethane. The combined organic extracts, are washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to give a clear oil which crystallizes on standing. Recrystallization of the crude product from acetone-hexane gives 1.8 g of ethyl[ (6,7-dichloro-2-hydroxymethylbenzo[b]thien-5-yl)oxy]acetate mp 117°-118.5°.

reactant | 6,7-dichloro-5-hydroxy-2-hydroxymethylbenzo[b]thiophene | 1.24 g | ClC=1C(=CC2=C(SC(=C2)CO)C1Cl)O | C9H6Cl2O2S
reactant | ethyl bromoacetate | 0.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 25 ml | CC(CC)=O | C4H8O
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | ethyl[ (6,7-dichloro-2-hydroxymethylbenzo[b]thien-5-yl)oxy]acetate | 1.8 g | C(C)OC(COC1=CC2=C(SC(=C2)CO)C(=C1Cl)Cl)=O | C13H12Cl2O4S
